US07504412B2
N-(2-cyclopropyl-3-methylimidazo[1,2-a]pyridin-6-yl)-4′-(methylsulfonyl)[1,1′-biphenyl]-4-carboxamide
Conducting the operations similar to those of Example 1 using 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine and 4′-(methylsulfonyl)[1,1′-biphenyl]-4-carboxylic acid, the title compound was obtained as white solid.

reactant | 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine | C1(CC1)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1C | C11H11N3O2
reactant | 4′-(methylsulfonyl)[1,1′-biphenyl]-4-carboxylic acid | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C14H12O4S
product | N-(2-cyclopropyl-3-methylimidazo[1,2-a]pyridin-6-yl)-4′-(methylsulfonyl)[1,1′-biphenyl]-4-carboxamide | C1(CC1)C=1N=C2N(C=C(C=C2)NC(=O)C2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)C)C1C | C25H23N3O3S
